US06455507B1
An ethanolic solution of 2-bromo-5,6-dichloro-1-(3,4-di-O-acetyl-2-deoxy-alpha-D-erythro-pentopyranosyl)-1H-benzimidazole (0.21 g, 0.45 mmol) was deprotected in a modification of General Procedure VI with 0.12 g (1.17 mmol) of sodium carbonate in 1 ml of water. After stirring overnight at ambient temperature, the mixture was treated as described in General Procedure VI. The crude product was triturated in ethyl acetate to give 0.11 g (0.29 mmol, 65% yield) of 2-bromo-5,6-dichloro-1-(2-deoxy-alpha-D-erythro-pentopyranosyl)-1H-benzimidazole. 1H NMR (DMSO-d6) δ8.15 (s, 1H), 7.96 (s, 1H), 5.80-5.77 (d, 1H), 5.12 (bs, 1H), 4.97 (m, 1H), 3.97-3.90 (m, 2H), 3.78-3.70 (m, 2H), 2.42-2.35 (m, 1H), 1.83-1.79 (m, 1H).

reactant | 2-bromo-5,6-dichloro-1-(3,4-di-O-acetyl-2-deoxy-alpha-D-erythro-pentopyranosyl)-1H-benzimidazole | 0.45 mmol, 0.21 g | BrC1=NC2=C(N1[C@@H]1C[C@H](OC(C)=O)[C@H](OC(C)=O)CO1)C=C(C(=C2)Cl)Cl | C16H15BrCl2N2O5
reactant | sodium carbonate | 1.17 mmol, 0.12 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 1 ml | O | H2O
product | 2-bromo-5,6-dichloro-1-(2-deoxy-alpha-D-erythro-pentopyranosyl)-1H-benzimidazole | 0.29 mmol, 0.11 g, 65% yield | BrC1=NC2=C(N1[C@@H]1C[C@H](O)[C@H](O)CO1)C=C(C(=C2)Cl)Cl | C12H11BrCl2N2O3
